US04108986
To a stirred solution of 4.42 g of N-benzylalanine tert-butyl ester in 20 ml of chloroform was carefully added N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl chloride obtained above. The reaction mixture was allowed to stand at room temperature for one hour. At the end of this period, the reaction mixture was washed twice with 20 ml of saturated sodium chloride solution and evaporated to dryness to give 2.50 g (83 percent) of N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-benzylalanine tert-butyl ester in the form of a powder. The flavianate; M.P. 168°-172° C (dec.)

reactant | N-benzylalanine tert-butyl ester | 4.42 g | C(C)(C)(C)OC([C@@H](NCC1=CC=CC=C1)C)=O | C14H21NO2
reactant | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl chloride | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-benzylalanine tert-butyl ester | 2.50 g, 83 percent | N#N.C(C)(C)(C)OC([C@@H](N(CC1=CC=CC=C1)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)C)=O | InChI=1S/C32H43N5O7S.N2/c1-21(30(39)44-32(2,3)4)37(20-22-11-8-7-9-12-22)29(38)26(13-10-16-35-31(33)34)36-45(40,41)25-15-14-23-18-27(42-5)28(43-6)19-24(23)17-25;1-2/h7-9,11-12,14-15,17-19,21,26,36H,10,13,16,20H2,1-6H3,(H4,33,34,35);/t21-,26-;/m0./s1
